US08053415B2
To synthesize cypate, a mixture of 1,1,2-trimethyl-[1H]-benz[e]indole (40.0 g, 19.11 mmol) and 3-bromopropanoic acid (40.0 g, 26.15 mmol) in 1,2-dichlorobenzene (200 mL) was heated at 110° C. for 18 h. After the resulting mixture was cooled to room temperature, the precipitate was collected by filtration, followed by trituration in dichloromethane (DCM) to remove the un-reacted material, and then dried under vacuum to afford 1,1,2-trimethyl[1H]-benz[e]indole-3-propanoic acid. A solution of acetic anhydride (1.20 g, 11.75 mmol) in DCM (5 mL) was added dropwise to a cooled suspension of glutaconaldehyde dianil monohydrochloride (2.84 g, 9.97 mmol) and diisopropylethylamine (DIEA, 2.60 g, 20.11 mmol) in DCM (20 mL). The resulting clear solution was stirred for 1 h and added dropwise to a refluxing solution of 1,1,2-trimethyl[1H]-benz[e]indole-3-propanoic acid (8.2 g, 22.64 mmol) and sodium acetate (3.2 g, 39.01 mmol) in acetonitrile/water (95/5 mL). The mixture was refluxed for 16 h, cooled, filtered, and washed with acetonitrile, 5% HCl solution and ethyl ether. About 6 g (85%) of cypate was obtained. It was further purified by recrystallization from 30% acetonitrile in water. Mass calculated: 625; observed (ESI-MS): 625.34 [M]+.

reactant | cypate | CC1(C=2C=3C=CC=CC3C=CC2[N+](=C1/C=C/C=C/C=C/C=C/4\C(C=5C=6C=CC=CC6C=CC5N4CCC(=O)O)(C)C)CCC(=O)O)C.[Br-]
reactant | 1,1,2-trimethyl-[1H]-benz[e]indole | 19.11 mmol, 40.0 g | CC1(C(=NC=2C=CC3=C(C12)C=CC=C3)C)C | C15H15N
reactant | 3-bromopropanoic acid | 26.15 mmol, 40.0 g | BrCCC(=O)O | C3H5BrO2
solvent | 1,2-dichlorobenzene | 200 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,1,2-trimethyl[1H]-benz[e]indole-3-propanoic acid | CC1(C(N(C=2C=CC3=C(C12)C=CC=C3)CCC(=O)O)C)C | C18H21NO2
